US04966900
III. Synthesis of 7-mercapto-5-methyltetrazolo[1,5-a]pyrimidine
To a solution of 108 g (1.35 mole) of sodium hydrosulfide dissolved in 4 liters of water, 70 g (0.41 mole) of 7-chloro-5-methyltetrazolo[1,5-a]pyrimidine was added and the mixture was heated to 60° C. and stirred for 2.5 hours. The pH of the mixture was adjusted to about 1 with 2N hydrochloric acid under ice-cooling and stirring. The precipitates were collected by filtration and washed with water, isopropanol and then ether, followed by drying, to obtain 64 g of the title compound (Yield: 93%).

reactant | sodium hydrosulfide | 1.35 mole, 108 g | [SH-].[Na+]
reactant | 7-chloro-5-methyltetrazolo[1,5-a]pyrimidine | 0.41 mole, 70 g | ClC1=CC(=NC=2N1N=NN2)C | C5H4ClN5
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | water | 4 liters | O | H2O
product | 7-mercapto-5-methyltetrazolo[1,5-a]pyrimidine | 64 g, Yield: 93% | SC1=CC(=NC=2N1N=NN2)C | C5H5N5S
